US04220658
The free base is prepared by dissolving 1-(2,6-dichlorophenyl)-3-methylguanidine hydrochloride to 10% sodium hydroxide solution and extracting with ether. The ether is dried and evaporated to dryness to obtain 1-(2,6-dichlorophenyl)-3-methylguanidine.

reactant | 1-(2,6-dichlorophenyl)-3-methylguanidine hydrochloride | Cl.ClC1=C(C(=CC=C1)Cl)NC(=N)NC
reactant | sodium hydroxide | [OH-].[Na+]
product | 1-(2,6-dichlorophenyl)-3-methylguanidine | ClC1=C(C(=CC=C1)Cl)NC(=N)NC | C8H9Cl2N3
